US07605171B2
Step A: 5-Formyl-2-(2,2,2-trifluoro-1-methylethoxy)benzonitrile
To a solution of 0.50 g (4.38 mmol) of 1,1,1-trifluoro-2-propanol in 15 mL of DMF at 0° C. was added 0.13 g (5.26 mmol) of sodium hydride (60% dispersion in mineral oil). After stirring for 10 min, 0.65 g (4.38 mmol) of 2-fluoro-5-formylbenzonitrile was added. The reaction mixture was gradually warmed up to rt and stirred overnight. The mixture was diluted with 20 mL of EtOAc and washed with brine (10 mL), H2O (3×10 mL), and brine (10 mL L). The organic layer was dried over MgSO4 and concentrated. Chromatography on a Biotage 40M cartridge using 4:1 v/v hexanes/EtOAc as the eluant gave 0.44 g of the title compound: 1H NMR (500 MHz, CDCl3) δ 1.67 (d, J=6.4, 3H), 4.95 (m, 1H), 7.22 (d, J=8.9, 1H), 8.12 (dd, J=2.0, 6.7, 1H), 8.16 (s, 1H), 9.96 (s, 1H).

reactant | 1,1,1-trifluoro-2-propanol | 4.38 mmol, 0.50 g | FC(C(C)O)(F)F | C3H5F3O
reactant | sodium hydride | 5.26 mmol, 0.13 g | [H-].[Na+]
reactant | 2-fluoro-5-formylbenzonitrile | 4.38 mmol, 0.65 g | FC1=C(C#N)C=C(C=C1)C=O | C8H4FNO
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 20 mL | CCOC(=O)C | C4H8O2
product | 5-Formyl-2-(2,2,2-trifluoro-1-methylethoxy)benzonitrile | 0.44 g | C(=O)C=1C=CC(=C(C#N)C1)OC(C(F)(F)F)C | C11H8F3NO2
